US07452886B2
To a solution of 10.5 g (23.9 mmoles) of 4-[2-cyano-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-3,5-dioxo-piperazine-1-carboxylic acid .tert.-butyl ester in 300 ml of CH2Cl2, 52 ml (675 mmoles) of TFA is added at 0° C. The reaction mixture is allowed to warm to ambient temperature and stirred for 6 hours. The reaction mixture is concentrated under reduced pressure, neutralized with sat.NaHCO3 and extracted with CH2Cl2. The combined extracts are washed with brine, dried over MgSO4 and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: CH2CO2:AcOEt=1:3) give 7.18 g of desired 7-(2,2-dimethyl-propyl)-6-(2,6-dioxo-piperazin-1-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile in 88.5% yield.

reactant | 4-[2-cyano-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-3,5-dioxo-piperazine-1-carboxylic acid | 23.9 mmoles, 10.5 g | C(#N)C=1N=CC2=C(N1)N(C(=C2)CN2C(CN(CC2=O)C(=O)O)=O)CC(C)(C)C | C18H20N6O4
reactant | TFA | 675 mmoles, 52 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
product | 7-(2,2-dimethyl-propyl)-6-(2,6-dioxo-piperazin-1-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 7.18 g, 88.5% yield | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2C(CNCC2=O)=O)(C)C | C17H20N6O2
